US07718693B2
D-pyroglutamic acid ethyl ester (0.200 g, 1.27 mmol) was dissolved in dioxane (5 ml) and treated with tris(dibenzylideneacetone)dipalladium (0) (0.058 g, 0.06 mmol), bromobenzene (0.351 ml, 1.53 mmol), cesium carbonate (0.621 g, 1.91 mmol) and Xantphos™ (0.110 g, 0.19 mmol). The resulting mixture was heated at reflux overnight and then allowed to cool to room temperature. The mixture was diluted with methanol and filtered. The filtrate was evaporated in vacuo and then partitioned between dichloromethane and saturated aqueous sodium hydrogen carbonate. The aqueous layer was extracted with more dichloromethane (3 aliquots) and then the combined organic layers were washed with brine and dried over magnesium sulphate. Evaporation of the solvent gave a bright yellow residue which was purified by flash silica column chromatography, eluting with a gradient of 0-50% ethyl acetate in hexane, to give methyl 5-oxo-1-phenylprolinate (0.078 g) as a yellow oil. This was used in the next step without further purification.

reactant | D-pyroglutamic acid ethyl ester | 1.27 mmol, 0.200 g | C(C)OC([C@@H]1NC(CC1)=O)=O | C7H11NO3
reactant | bromobenzene | 1.53 mmol, 0.351 ml | BrC1=CC=CC=C1 | C6H5Br
reactant | cesium carbonate | 1.91 mmol, 0.621 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Xantphos | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.06 mmol, 0.058 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 5-oxo-1-phenylprolinate | 0.078 g | O=C1CC[C@H](N1C1=CC=CC=C1)C(=O)OC | C12H13NO3
